US06974870B2
To a stirred solution of 2-cyanothioacetamide (3.52 g, 35 mmol) and ethyl 2,4-dioxovalerate (5.0 g, 32 mmol) in anhydrous EtOH (75 mL) at room temperature was added triethylamine (0.5 mL) and the reaction was stirred overnight. Filtration and washing of the precipitates with EtOH gave 3-cyano-2-mercapto-6-methyl-isonicotinic acid ethyl ester as a yellow solid (4.54 g, 64.5%). A mixture of this ester (3.54 g, 16 mmol), bromoacetamide (2.15 g, 16 mmol) and sodium ethoxide (2.18 g, 32 mmol) in MeOH was heated at reflux overnight. It was then allowed to cool to room temperature. Filtration and washing of the precipitates with EtOH provided 3-amino-2-carbamoyl-6-methyl-thieno[2,3-b]pyridine-4-carboxylic acid ethyl ester as a solid (0.94 g, 21.1%).

reactant | 2-cyanothioacetamide | 35 mmol, 3.52 g | C(#N)CC(=S)N | C3H4N2S
reactant | ethyl 2,4-dioxovalerate | 32 mmol, 5.0 g | O=C(C(=O)OCC)CC(C)=O | C7H10O4
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 75 mL | CCO | C2H6O
product | 3-cyano-2-mercapto-6-methyl-isonicotinic acid ethyl ester | 4.54 g, 64.5% | C(C)OC(C1=C(C(=NC(=C1)C)S)C#N)=O | C10H10N2O2S
